US06815438B2
3-(5-Chloro-3-pyridyl)-3,7-diazabicyclo[3.3.0]octane (Compound C1):
3,5-Dichloropyridine (1 eq.), 3.7-Diazabicyclo[3.3.0]octane (1 eq.) and palladacycle (0.2%) [Herrmann W A, Brossmer C, Öfele K, Reisinger, C-P, Priermeier, T, Beller M, and Fischer, H; Angew. Chem. Int. Ed. Enql. 1995 34 1844] is stirred at 160° C. for 24 hours. Workup-procedure A/B.

reactant | 3,5-Dichloropyridine | 1 eq. | ClC=1C=NC=C(C1)Cl | C5H3Cl2N
reactant | 3.7-Diazabicyclo[3.3.0]octane | 1 eq. | C12CNCC2CNC1 | C6H12N2
product | 3-(5-Chloro-3-pyridyl)-3,7-diazabicyclo[3.3.0]octane | ClC=1C=C(C=NC1)N1CC2CNCC2C1 | C11H14ClN3
